2117-10-08 04:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated, off pressors
   - stopped her mIVF after extubation
   - initially low UOP of [**11-30**] cc/hr, then picked up to 150-200 cc/hr
   - was given a lasix x 1 dose
   - new rhythm (previous HR 60s, now 100s); possibly sinus tach with wide
   complex RBBB morphology.
   - Patient with history of AF, on coumadin at home, was held earlier
   today [**3-15**] possible procedure (ERCP, cath?), started heparin SQ given
   question of abdominal process and nearly therapeutic INR
   - Patient with left leg pain this AM, but no abdominal pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2117-10-7**] 01:00 AM
   Metronidazole - [**2117-10-7**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-8**] 12:07 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2117-10-7**] 12:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-8**] 04:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 102 (58 - 107) bpm
   BP: 136/61(85) {92/41(58) - 136/66(87)} mmHg
   RR: 20 (10 - 25) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 62 Inch
             Total In:
                                                                  3,247 mL
                                                                    144 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                  2,827 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                    938 mL
                                                                    490 mL
   Urine:
                                                                    938 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,309 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 405 (0 - 405) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   Physical Examination
   Vital sign details: VS: T= 96.3 BP= 110/70 HR= 90 RR= 12 O2 sat=
   GENERAL: Intubated, sedated.
   HEENT: Tube in place.  NCAT. PERRL. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with no elevated.
   CARDIAC: Regular rate and rhythm. Temporary pacer wire in place.
   Normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS:  Diffuse crackles b/l.  No wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right:  DP/PT dopplerable
   Left:  DP/PT dopplerable
   Labs / Radiology
   153 K/uL
   12.3 g/dL
   188
   1.8 mg/dL
   24 mEq/L
   4.7 mEq/L
   40 mg/dL
   106 mEq/L
   139 mEq/L
   38.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2117-10-7**]  12:36 AM
                             [**2117-10-7**]  03:21 AM
                             [**2117-10-7**]  06:25 AM
                             [**2117-10-7**]  08:00 AM
                             [**2117-10-7**]  09:28 AM
                             [**2117-10-7**]  01:41 PM
                             [**2117-10-7**]  02:18 PM
                             [**2117-10-7**]  05:00 PM
   WBC
   20.1
   12.7
   Hct
   40.1
   38.5
   Plt
   168
   153
   Cr
   1.8
   1.7
   1.8
   TropT
   <0.01
   <0.01
   TCO2
   27
   25
   24
   Glucose
   [**Telephone/Fax (3) 10105**]85
   188
   Other labs: PT / PTT / INR:20.2/30.8/1.9, CK / CKMB /
   Troponin-T:104/4/<0.01, ALT / AST:131/225, Alk Phos / T Bili:52/1.5,
   Differential-Neuts:83.5 %, Lymph:9.8 %, Mono:5.9 %, Eos:0.4 %, Lactic
   Acid:2.4 mmol/L, LDH:428 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 CHOLANGITIS
 CARDIAC ARREST
   78F with CAD presenting with abdominal pain and progressing to PEA
   arrest s/p resuscitation, extubated and off pressors.
   .
   # RHYTHM/PEA:  Has chronic history of a-fib (on anticoagulation).
   Patient became asystolic while in ED.  Was coded by ED team and had
   temporary pacer line placed by cardiology fellows.  Pulse/pressure
   returned and patient immediately trasferred to CCU.  In paced rhythm
   with HR of 90.  Unlikely to be due to trauma, pneumothorax, or
   hypovolemia.  Possibilites include PE, AAA, MI, mesenteric ischemia,
   metabolic abnormalities, hypoxia, medication overdose, or acidosis.
   -tele
   -EKG in AM
   -consider permanent pacemaker
   -repeat labs tonight- monitor K+
   -no thrombotic event with CT chest
   -no aneursym, aortic dissection with CT abd
   -ECHO
   .
   #Hypotension: unclear etiology, potentially sepsis, acidosis, aortic
   dissection, hyperkalemia.
   -off pressors
   .
   #Hypoxia: CXR with LLL infiltrate, cardiomegaly, coin lesion in RLL,
   crackles on exam
   - now extubated
   - lasix 20 mg IV x 1
   .
   #Acute renal failure: Baseline Creatinine 1.0, was 2.0 on
   presentation.  Now improving.
   .
   #Leukocytosis: WBC 20.0. [**Month (only) 60**] be from stress of cardiac arrest,
   epinephrine administration, abdominal catastrophe.  Will await CT torso
   and cover broadly with antibiotics.
   .
   # CORONARIES:  History of CAD s/p CABG in [**2116**]
   -holding aspirin until CT torso
   -atorvastatin 20mg daily
   -EKG
   -ECHO
   -monitor cardiac enzymes
   .
   # PUMP:  History of HTN- patient on carvedilol 25mg PO BID and lasix
   40mg daily
   -will hold BP meds initially while pressures are lower than usual.
   -monitor UOP
   .
   # Anticoagulation- on coumadin 2mg daily for chronic a-fib.
   -hold coumadin tonight given possibility of procedure tomorrow
   .
   # Abdominal pain- felt to be constipation, as other serious pathologies
   less likely.
   -f/u cultures
   -monitory fever curve
   -on ancef
   -f/u CT results
   .
   FEN:  replete lytes PRN
   .
   ACCESS: PIV's - 16 and 20 gauge
   .
   PROPHYLAXIS:
   -DVT ppx with sub q heparin
   -Bowel regimen with  colace, senna
   .
   CODE: Presumed full
   .
   COMM: Daughter
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2117-10-6**] 11:57 PM
   Cordis/Introducer - [**2117-10-6**] 11:58 PM
   Arterial Line - [**2117-10-7**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add
   Physical Examination
   Nothing to add
   Medical Decision Making
   Nothing to add
   Total time spent on patient care: 60 minutes.

2117-10-09 05:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient had small bowel movement early afternoon yesterday.  Up to
   commode 2 times after that with a lot of straining causing her external
   hemorrhoid to bleed twice.  Still on 5 Liters nasal cannula at 1AM. Put
   out 2 Liters today but still positive 1.3 Liters for length of stay.
   Given another 20mg IV Lasix over night. Changed Zosyn to levofloxacin
   750mg PO this AM, metronidazole to PO as well. Started warfarin,
   started bowel regimen.  Cordis d/c
   -ECHO [**10-8**] at 3.20pm: The right + left atrium are moderately dilated.
   Right + Left ventricular wall thickness, cavity size and
   regional/global systolic function are normal, free wall motion is
   normal (LVEF 60-70%).
   -The ascending aorta is moderately dilated. The aortic valve leaflets
   (3) are mildly thickened but aortic stenosis is not present.
   -Moderate (2+) aortic regurgitation is seen. Mitral + Tricuspid valve
   leaflets are mildly thickened. Moderate [2+] tricuspid regurgitation is
   seen. There is mild pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   -Compared with the findings of the prior report (images unavailable for
   review) of [**1-5**] v2008, probably no major change.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2117-10-7**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-8**] 06:55 AM
   Levofloxacin - [**2117-10-8**] 12:18 PM
   Metronidazole - [**2117-10-8**] 04:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-10-9**] 12:53 AM
   Furosemide (Lasix) - [**2117-10-9**] 12:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-9**] 05:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 121 (92 - 130) bpm
   BP: 128/66(90) {111/54(73) - 141/76(97)} mmHg
   RR: 39 (20 - 39) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
                  Total In:
                                                                  1,123 mL
                                                                     60 mL
   PO:
                                                                    620 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    503 mL
   Blood products:
   Total out:
                                                                  2,080 mL
                                                                  1,260 mL
   Urine:
                                                                  2,080 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -957 mL
                                                                 -1,200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   GENERAL: NAD.  Extubated.  Comfortable.  .
   HEENT: NCAT. PERRL. Conjunctiva were pink, no pallor or cyanosis of the
   oral mucosa. No xanthalesma.
   NECK:
   CARDIAC: Regular rate and rhythm. Normal S1, S2. No m/r/g. No thrills,
   lifts. No S3 or S4.
   LUNGS:  Bibasilar inspiratory crackles b/l.  No wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right:  DP/PT dopplerable
   Left:  DP/PT dopplerable
   Labs / Radiology
   121 K/uL
   10.5 g/dL
   109 mg/dL
   1.6 mg/dL
   28 mEq/L
    3.7 mEq/L
   39 mg/dL
   106 mEq/L
   144 mEq/L
   32.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2117-10-7**]  12:36 AM
                             [**2117-10-7**]  03:21 AM
                             [**2117-10-7**]  06:25 AM
                             [**2117-10-7**]  08:00 AM
                             [**2117-10-7**]  09:28 AM
                             [**2117-10-7**]  01:41 PM
                             [**2117-10-7**]  02:18 PM
                             [**2117-10-7**]  05:00 PM
                             [**2117-10-8**]  05:14 AM
   WBC
   20.1
   12.7
   8.6
   Hct
   40.1
   38.5
   32.7
   Plt
   168
   153
   121
   Cr
   1.8
   1.7
   1.8
   1.6
   TropT
   <0.01
   <0.01
   TCO2
   27
   25
   24
   Glucose
   [**Telephone/Fax (3) 10105**]85
   188
   109
   Other labs: PT / PTT / INR:20.2/30.8/1.9, CK / CKMB /
   Troponin-T:104/4/<0.01, ALT / AST:72/72, Alk Phos / T Bili:40/1.1,
   Differential-Neuts:83.5 %, Lymph:9.8 %, Mono:5.9 %, Eos:0.4 %, Lactic
   Acid:2.4 mmol/L, Albumin:3.2 g/dL, LDH:428 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   78F with CAD presenting with abdominal pain and progressing to PEA
   arrest s/p resuscitation, extubated and off pressors.
   .
   # RHYTHM/PEA:  Has chronic history of a-fib (on anticoagulation).
   Patient became asystolic while in ED.  Was coded by ED team and had
   temporary pacer line placed by cardiology fellows.  Pulse/pressure
   returned and patient immediately trasferred to CCU.  In paced rhythm
   with HR of 90.  Unlikely to be due to trauma, pneumothorax, or
   hypovolemia.  Possibilites include PE, AAA, MI, mesenteric ischemia,
   metabolic abnormalities, hypoxia, medication overdose, or acidosis.
   -tele
   -EKG in AM
   -restart metoprolol at home dose today
   -repeat labs tonight- monitor K+
   -no thrombotic event with CT chest
   -no aneursym, aortic dissection with CT abd
   .
   #Hypotension:Resolved.  unclear etiology, potentially sepsis, acidosis,
   aortic dissection, hyperkalemia.
   -off pressors
   .
   #Hypoxia: CXR with LLL infiltrate, cardiomegaly, coin lesion in RLL,
   crackles on exam
   - now extubated
   - lasix 20 mg IV x 1
   - goal of -500ml for the day
   .
   #cough- patient reports new onset cough.  Ddx includes pneumonia,
   sinusitis, post-nasal drip.  Productive- clear sputum.
   -sputum culture
   -robitussin for cough
   .
   #Acute renal failure: Baseline Creatinine 1.0, was 2.0 on presentation,
   this morning recovered back to 1.0.
   .
   #Leukocytosis: WBC 20.0 at admission today 8.[**6-13**] have been from
   stress of cardiac arrest, epinephrine administration, abdominal
   catastrophe.
   -started on Zosyn. Changed to levofloxacin 750mg
   -changed metronidazole to PO
   .
   # CORONARIES:  History of CAD s/p CABG in [**2116**]
   -holding aspirin until CT torso
   -atorvastatin 20mg daily
   -EKG
   .
   # PUMP:  History of HTN- patient on carvedilol 25mg PO BID and lasix
   40mg daily at home.  Meds were being held given recent episode of
   bradycardia in ED.  Patient consistently been tachycardic while in CCU-
   no episodes of bradycardia.
   -restart home metoprolol this AM.
   -monitor UOP
   .
   # Anticoagulation- on coumadin 2mg daily for chronic a-fib.
   -          restarted warfarin
   -          possibly start aspirin
   .
   # Abdominal pain- felt to be constipation, as other serious pathologies
   less likely.
   -cultures pending
   -monitory fever curve afebrile at T96-98.
   - CT results negative for bowel features
   .
   FEN:  replete lytes PRN
   .
   ACCESS: PIV's - 16 and 20 gauge
   .
   PROPHYLAXIS:
   -DVT ppx with sub q heparin
   -Bowel regimen with  colace, senna
   .
   CODE: Presumed full
   .
   COMM: Daughter
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2117-10-6**] 11:57 PM
   Arterial Line - [**2117-10-7**] 05:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **] from [**2117-10-8**].
   I would add the following remarks:
   History
   Agree with above, nothing to add
   Physical Examination
   Agree with above, nothing to add
   Medical Decision Making
   Agree with above, nothing to add
   Total time spent on patient care: 60 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4646**],MD
   on:[**2117-10-9**] 08:50 ------

2117-10-10 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient given robitussin for cough.  Up to chair.  Will get PT consult
   today.  Auto-diuresed well yesterday.  Increased beta-blocker to
   metoprolol 50mg PO BID.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2117-10-8**] 06:55 AM
   Levofloxacin - [**2117-10-8**] 12:18 PM
   Metronidazole - [**2117-10-8**] 04:18 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2117-10-9**] 08:26 AM
   Famotidine (Pepcid) - [**2117-10-9**] 02:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-10-10**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.4
   HR: 99 (99 - 121) bpm
   BP: 140/83(97) {127/50(70) - 145/90(104)} mmHg
   RR: 28 (22 - 38) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
                  Total In:
                                                                    830 mL
                                                                    180 mL
   PO:
                                                                    780 mL
                                                                    180 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,460 mL
                                                                    680 mL
   Urine:
                                                                  3,460 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,630 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: NAD.  Extubated.  Comfortable.  .
   HEENT: NCAT. PERRL. Conjunctiva were pink, no pallor or cyanosis of the
   oral mucosa. No xanthalesma.
   NECK:
   CARDIAC: Regular rate and rhythm. Normal S1, S2. No m/r/g. No thrills,
   lifts. No S3 or S4.
   LUNGS:  Bibasilar inspiratory crackles b/l.  No wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right:  DP/PT dopplerable
   Left:  DP/PT dopplerable
   Labs / Radiology
   112 K/uL
   10.6 g/dL
   114 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.4 mEq/L
   23 mg/dL
   102 mEq/L
   140 mEq/L
   32.6 %
   8.3 K/uL
        [image002.jpg]
                             [**2117-10-7**]  12:36 AM
                             [**2117-10-7**]  03:21 AM
                             [**2117-10-7**]  06:25 AM
                             [**2117-10-7**]  08:00 AM
                             [**2117-10-7**]  09:28 AM
                             [**2117-10-7**]  01:41 PM
                             [**2117-10-7**]  02:18 PM
                             [**2117-10-7**]  05:00 PM
                             [**2117-10-8**]  05:14 AM
                             [**2117-10-9**]  05:30 AM
   WBC
   20.1
   12.7
   8.6
   8.3
   Hct
   40.1
   38.5
   32.7
   32.6
   Plt
   168
   153
   121
   112
   Cr
   1.8
   1.7
   1.8
   1.6
   1.0
   TropT
   <0.01
   <0.01
   TCO2
   27
   25
   24
   Glucose
   [**Telephone/Fax (3) 10105**]85
   188
   109
   114
   Other labs: PT / PTT / INR:21.9/58.8/2.1, CK / CKMB /
   Troponin-T:104/4/<0.01, ALT / AST:72/72, Alk Phos / T Bili:40/1.1,
   Differential-Neuts:83.5 %, Lymph:9.8 %, Mono:5.9 %, Eos:0.4 %, Lactic
   Acid:2.4 mmol/L, Albumin:3.2 g/dL, LDH:428 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   78F with CAD presenting with abdominal pain and progressing to PEA
   arrest s/p resuscitation, extubated and off pressors.
   .
   # RHYTHM/PEA:  Has chronic history of a-fib (on anticoagulation).
   Patient became asystolic while in ED.  Was coded by ED team and had
   temporary pacer line placed by cardiology fellows.  Pulse/pressure
   returned and patient immediately trasferred to CCU.  In paced rhythm
   with HR of 90.  Unlikely to be due to trauma, pneumothorax, or
   hypovolemia.  Possibilites include PE, AAA, MI, mesenteric ischemia,
   metabolic abnormalities, hypoxia, medication overdose, or acidosis.
   -tele
   -EKG in AM
   -increase metoprolol to 75mg PO q8hr
   -repeat labs tonight- monitor K+
   -no thrombotic event with CT chest
   -no aneursym, aortic dissection with CT abd
   .
   #Hypotension:Resolved.  unclear etiology, potentially sepsis, acidosis,
   aortic dissection, hyperkalemia.
   -off pressors
   .
   #Hypoxia: CXR with LLL infiltrate, cardiomegaly, coin lesion in RLL,
   crackles on exam
   - now extubated
   - lasix 20 mg IV x 1
   - goal of -500ml for the day
   .
   #cough- patient reports new onset cough.  Ddx includes pneumonia,
   sinusitis, post-nasal drip.  Productive- clear sputum.
   -sputum culture
   -robitussin for cough
   .
   #Acute renal failure: Baseline Creatinine 1.0, was 2.0 on presentation,
   this morning recovered back to 0.9
   .
   #Leukocytosis: WBC 20.0 at admission today 8.[**6-13**] have been from
   stress of cardiac arrest, epinephrine administration, abdominal
   catastrophe.
   -started on Zosyn then on levofloxacin
   -redose levofloxacin given improvement in renal function (daily dose)
   -changed metronidazole to PO
   .
   # CORONARIES:  History of CAD s/p CABG in [**2116**]
   -holding aspirin until CT torso
   -atorvastatin 20mg daily
   -EKG
   .
   # PUMP:  History of HTN- patient on carvedilol 25mg PO BID and lasix
   40mg daily at home.  Meds were being held given recent episode of
   bradycardia in ED.  Patient consistently been tachycardic while in CCU-
   no episodes of bradycardia.
   -metoprolol 75mg q8hr
   -monitor UOP
   .
   # Anticoagulation- on coumadin 2mg daily for chronic a-fib.  INR down
   to 1.9 today (2.1 yesterday)
   -          Warfarin 2mg daily
   -          possibly start aspirin
   .
   # Abdominal pain- felt to be constipation, as other serious pathologies
   less likely.
   -cultures pending
   - monitory fever curve afebrile at T96-98.
   - CT results negative for bowel features
   .
   # Deconditioning
   - PT consult
   .
   FEN:  replete lytes PRN
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with sub q heparin
   -Bowel regimen with  colace, senna (held today for diarrhea)
   .
   CODE: Presumed full
   .
   COMM: Daughter
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2117-10-6**] 11:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   Total time spent on patient care: 50 minutes.